US06872720B2
3-(2-Fluorophenyl)-methyl-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(pyrazin-2-yl)pyrazolo[1,5-d][1,2,4]triazine
This compound was prepared using the procedure described in example 7, step e, using (2-methyl-2H-[1,2,4]triazol-3-yl)methanol (prepared as described in EP-A-170073) instead of (2-ethyl-2H-[1,2,4]triazol-3-yl)methanol, and using toluene-4-sulfonic acid 3-(2-fluorophenyl)-4-methyl-7-(pyrazin-2-yl)pyrazolo[1,5-d][1,2,4]triazin-2-yl ester instead of toluene-4-sulfonic acid 3-tert-butyl-7-(2,6-difluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester. Data for the title compound: 1H NMR (400 MHz, CDCl3) δ 2.54 (3H, s), 3.84 (3H, s), 5.54 (1H, d, J=13 Hz), 5.58 (1H, d, J=13 Hz), 7.21 (1H, m), 7.26 (1H, m), 7.36 (1H, td, J=7.4, 1.8 Hz), 7.46 (1H, m), 7.84 (1H, s), 8.85 (2H, m), 9.48 (1H, d, J=1.4 Hz); MS (ES+) m/e 418 [MH]+. Anal. Found C, 57.37; H, 3.73; N, 28.99%. C20H16FN9O.0.3 H2O.0.07 C6H14 requires C, 57.19; H, 4.13; N, 29.40%.

reactant | (2-methyl-2H-[1,2,4]triazol-3-yl)methanol | CN1N=CN=C1CO | C4H7N3O
reactant | toluene-4-sulfonic acid 3-(2-fluorophenyl)-4-methyl-7-(pyrazin-2-yl)pyrazolo[1,5-d][1,2,4]triazin-2-yl ester | FC1=C(C=CC=C1)C=1C(=NN2C(=NN=C(C21)C)C2=NC=CN=C2)OS(=O)(=O)C2=CC=C(C=C2)C | C23H17FN6O3S
product | 3-(2-Fluorophenyl)-methyl-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(pyrazin-2-yl)pyrazolo[1,5-d][1,2,4]triazine | FC1=C(C=CC=C1)C=1C(=NN2C(=NN=C(C21)C)C2=NC=CN=C2)OCC=2N(N=CN2)C | C20H16FN9O
